US09126934B2
Dimethyl acetamide (980 ml) and 98 g of 2-ethyl-3,7-dimethyl-6-(4-(trifluoromethoxy)phenoxy)quinolin-4(1H)-one were charged into a glass flask equipped with a stirring device, a thermometer, a reflux condenser, and a calcium chloride tube and having a volume of 2000 ml under a nitrogen atmosphere, and the mixture was cooled to 15° C. 55% sodium hydride (18.2 g) was added thereto, and the mixture was stirred at 15 to 20° C. for one hr. Methyl chloroformate (32.1 g) was added dropwise, and a reaction was allowed to proceed at room temperature for one hr. The reaction mixture was poured into 5 L of ice water contained in a 10-L plastic container, and the mixture was stirred at room temperature for 2 hr. The precipitated solid was collected by a suction filter and was washed with n-hexane and water. The solid was dried in vacuo to give 2-ethyl-3,7-dimethyl-6-(4-(trifluoromethoxy)phenoxy)quinolin-4-yl methyl carbonate (103.3 g, yield 91.4%).

reactant | 2-ethyl-3,7-dimethyl-6-(4-(trifluoromethoxy)phenoxy)quinolin-4(1H)-one | 98 g | C(C)C=1NC2=CC(=C(C=C2C(C1C)=O)OC1=CC=C(C=C1)OC(F)(F)F)C | C20H18F3NO3
reactant | sodium hydride | 18.2 g | [H-].[Na+]
reactant | Methyl chloroformate | 32.1 g | ClC(=O)OC | C2H3ClO2
solvent | Dimethyl acetamide | 980 ml | CC(=O)N(C)C | C4H9NO
product | 2-ethyl-3,7-dimethyl-6-(4-(trifluoromethoxy)phenoxy)quinolin-4-yl methyl carbonate | 103.3 g, yield 91.4% | C(OC1=C(C(=NC2=CC(=C(C=C12)OC1=CC=C(C=C1)OC(F)(F)F)C)CC)C)(OC)=O | C22H20F3NO5
